US07989457B2
Step B. 3-[4-(3-Methyl-biphenyl-4-ylmethoxy)-benzoylamino]-propionic acid
A mixture of 3-[4-(3-methyl-biphenyl-4-ylmethoxy)-benzoylamino]-propionic acid methyl ester (0.17 g, 0.42 mmol) and 5M NaOH (2 mL) in THF (4 mL) is heated at 70° C. for 5 h. The mixture is acidified with 5M HCl, and extracted with EtOAc. The organics are washed with water and brine, and dried with MgSO4 to yield the title compound (42 mg, 26%). MS (ES): 390 (M+). The structure is also confirmed by 1H NMR.

reactant | 3-[4-(3-methyl-biphenyl-4-ylmethoxy)-benzoylamino]-propionic acid methyl ester | 0.42 mmol, 0.17 g | COC(CCNC(C1=CC=C(C=C1)OCC1=C(C=C(C=C1)C1=CC=CC=C1)C)=O)=O | C25H25NO4
reactant | NaOH | 5M, 2 mL | [OH-].[Na+]
reactant | HCl | 5M | Cl | ClH
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 3-[4-(3-Methyl-biphenyl-4-ylmethoxy)-benzoylamino]-propionic acid | 42 mg, 26% | CC=1C=C(C=CC1COC1=CC=C(C(=O)NCCC(=O)O)C=C1)C1=CC=CC=C1 | C24H23NO4
